US07897607B2
Ethyl 1-((dipropylamino)methyl)-6-mesityl-4-oxo-4H-quinolizine-3-carboxylate
Ethyl 1-cyano-6-mesityl-4-oxo-4H-quinolizine-3-carboxylate (0.110 g, 0.30 mmol) was dissolved in 20 mL ethanol and HCl (0.15 mL) and treated with 20% Pd(OH)2 over charcoal (0.050 g). The solution was evacuated and filled with a hydrogen balloon. After 5 h, the solution was filtered and concentrated to give a yellow solid. The hydrochloride salt was then dissolved in 1,2-dichloroethane (5 mL) and propionaldehyde (0.078 mL, 1.1 mmol) was added followed by sodium triacetoxyborohydride (0.23 g, 1.1 mmol). The reaction was heated to 40° C. overnight. The solution was cooled, quenched with water. Extraction with ethyl acetate was followed by drying the organic layer, concentration, and flash chromatography (ethyl acetate) to give 0.059 g (42% yield) of the title compound.

reactant | Ethyl 1-cyano-6-mesityl-4-oxo-4H-quinolizine-3-carboxylate | 0.30 mmol, 0.110 g | C(#N)C=1C=C(C(N2C(=CC=CC12)C1=C(C=C(C=C1C)C)C)=O)C(=O)OCC | C22H20N2O3
reactant | HCl | 0.15 mL | Cl | ClH
reactant | charcoal | 0.050 g | C | CH4
reactant | propionaldehyde | 1.1 mmol, 0.078 mL | C(CC)=O | C3H6O
reactant | sodium triacetoxyborohydride | 1.1 mmol, 0.23 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
catalyst | Pd(OH)2 | [OH-].[OH-].[Pd+2]
product | Ethyl 1-((dipropylamino)methyl)-6-mesityl-4-oxo-4H-quinolizine-3-carboxylate | 0.059 g, 42% yield | C(CC)N(CCC)CC=1C=C(C(N2C(=CC=CC12)C1=C(C=C(C=C1C)C)C)=O)C(=O)OCC | C28H36N2O3
